US06953806B2
In analogy to the method described in example 12.1, trans-{2-[4-(3-chloro-(E)-propenyl)-cyclohexyl]-ethyl}-methyl-carbamic acid 4-chloro-phenyl ester was reacted with pyrrolidine in N,N-dimethylacetamide at room temperature to yield trans-methyl-{2-[4-(3-pyrrolidin-1-yl-(E)-propenyl)-cyclohexyl]-ethyl}-carbamic acid 4-chloro-phenyl ester as yellow viscous oil, MS: 405 (MH+, 1Cl).

reactant | trans-{2-[4-(3-chloro-(E)-propenyl)-cyclohexyl]-ethyl}-methyl-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(C)CC[C@@H]1CC[C@H](CC1)\C=C\CCl)=O | C19H25Cl2NO2
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | trans-methyl-{2-[4-(3-pyrrolidin-1-yl-(E)-propenyl)-cyclohexyl]-ethyl}-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(CC[C@@H]1CC[C@H](CC1)\C=C\CN1CCCC1)C)=O | C23H33ClN2O2
